US07402595B2
2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid
To a solution (76 ml) of 6-chloro-2-methylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (3.8 g) in THF were added triethylamine (4.0 ml) and benzyl chloroformate (3.6 ml) at 0° C. with stirring, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1-dichloromethane/methanol/acetic acid=50/10/1) to give the title compound (2.5 g) as yellow powder.

reactant | 6-chloro-2-methylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 76 ml, 3.8 g | ClC=1C=C2C(=C(N(C(C2=CC1)=O)NC)C(=O)O)C1=CC=CC=C1 | C17H13ClN2O3
reactant | triethylamine | 4.0 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 3.6 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 2.5 g | C(C1=CC=CC=C1)OC(=O)N(N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Cl)=O)C | C25H19ClN2O5
